US08211892B2
1.2 g of 4-[1-(4-bromophenyl)piperidin-4-yloxy]pyridine are placed in 20 ml of anhydrous o-xylene. 0.844 g of 3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester is added, then 0.519 g of sodium tert-butoxide is added, followed by 0.032 g of palladium acetate, and then addition is completed with 0.029 g of tri(tert-butyl)phosphine. The reaction mixture is heated at 150° C. for 6 h. Heating is subsequently halted, the mixture is brought back to ambient temperature and ethyl acetate is added. The mixture is washed twice with water and then twice with a saturated aqueous sodium chloride solution. The organic phase is dried over sodium sulphate and concentrated under reduced pressure. The crude product obtained is chromatographed on silica gel, elution being carried out with a gradient of a dichloromethane/methanol (99/1 to 97/3) mixture. 1.1 g of 4-{4-[4-(pyridin-4-yloxy)piperidin-1-yl]phenyl}-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester are obtained.

reactant | 4-[1-(4-bromophenyl)piperidin-4-yloxy]pyridine | 1.2 g | BrC1=CC=C(C=C1)N1CCC(CC1)OC1=CC=NC=C1 | C16H17BrN2O
reactant | 3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester | 0.844 g | C(C)(C)(C)OC(=O)N1CCNC2=CC=CC=C12 | C13H18N2O2
reactant | sodium tert-butoxide | 0.519 g | CC(C)([O-])C.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | o-xylene | 20 ml | CC=1C=CC=CC1C | C8H10
catalyst | palladium acetate | 0.032 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tri(tert-butyl)phosphine | 0.029 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
product | 4-{4-[4-(pyridin-4-yloxy)piperidin-1-yl]phenyl}-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester | 1.1 g | C(C)(C)(C)OC(=O)N1CCN(C2=CC=CC=C12)C1=CC=C(C=C1)N1CCC(CC1)OC1=CC=NC=C1 | C29H34N4O3
